US06472393B1
Nitrobenzene (100 ml) was cooled to zero degrees Celsius and saturated with HCl gas. To this solution was added of 3,4-diethoxy-phenol (11.64 g, 64 mmoles), propane-1-sulfonic acid cyanomethyl-amide (10.36 g, 64 mmoles) and zinc chloride (17.45 g, 128 mmoles). The reaction was stirred for 1 hour at zero degrees Celsius and then allowed to warm to room temperature. Stirring was continued for 2 hours. Thin-layer chromatography showed consumption of 3,4-diethoxy-phenol. Water (100 ml) was added cautiously and the reaction was heated to 100 degrees Celsius for 1 hour. The reaction was cooled, and extracted with methylene chloride. The extracts were washed with water, brine, dried over anhydrous sodium sulfate, filtered, and the solvent was removed in vacuo. The residue was submitted to flash chromatography (2.5-5% ethyl acetate in methylene chloride). The purified product was triturated with ether, filtered and air dried to yield 17.3 g of propane-1-sulfonic acid [2-(4,5-diethoxy-2-hydroxy-phenyl)-2-oxo-ethyl]-amide. 1HNMR (CDCl3): 11.86 (s, 1H), 6.93 (s, 1H), 6.46 (s, 1H), 5.26 (t, 1H), 4.55 (d, 2H), 4.14 (q, 2H), 4.03 (q, 2H), 3.05 (m, 2H), 1.90 (m, 2H), 1.45 (m, 6H), 1.07 (t, 3H).

reactant | HCl | Cl | ClH
reactant | 3,4-diethoxy-phenol | 64 mmoles, 11.64 g | C(C)OC=1C=C(C=CC1OCC)O | C10H14O3
reactant | propane-1-sulfonic acid cyanomethyl-amide | 64 mmoles, 10.36 g | C(#N)CNS(=O)(=O)CCC | C5H10N2O2S
reactant | Nitrobenzene | 100 ml | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
catalyst | zinc chloride | 128 mmoles, 17.45 g | [Cl-].[Zn+2].[Cl-]
product | propane-1-sulfonic acid [2-(4,5-diethoxy-2-hydroxy-phenyl)-2-oxo-ethyl]-amide | 17.3 g | C(C)OC1=CC(=C(C=C1OCC)C(CNS(=O)(=O)CCC)=O)O | C15H23NO6S
